US07858796B2
(9) 5-Phenyl-3-[1-(phenylmethyl)-1,2,3,6-tetrahydro-4-pyridinyl]-1H-indole-7-carboxamide
To the solution of 5-phenyl-1H-indole-7-carboxamide (3.11 g, 12 mmol) in methanol (100 mL) was added benzyl piperidone (7.4 g, 36 mmol), followed by 156 mL of NaOMe (0.5 M in MeOH). The reaction mixture was then heated at 80° C. overnight. The solution was cooled to ambient temperature and the solvent removed under reduced pressure, and the resulting residue redisolved in a bilayer of ethyl acetate and 5% sodium hydroxide solution. The organic phase washed with brine, dried over potassium carbonate, and the solvent removed under reduced pressure. The residue was purified by silica gel chromatography (CH2Cl2:MeOH:NH4OH=96:3:1) to provide the desired product (2.66 g, 51%).

reactant | 5-phenyl-1H-indole-7-carboxamide | 12 mmol, 3.11 g | C1(=CC=CC=C1)C=1C=C2C=CNC2=C(C1)C(=O)N | C15H12N2O
reactant | benzyl piperidone | 36 mmol, 7.4 g | C(C1=CC=CC=C1)N1C(CCCC1)=O | C12H15NO
reactant | NaOMe | 0.5 M, 156 mL | C[O-].[Na+]
solvent | MeOH | 100 mL | CO | CH4O
product | 5-Phenyl-3-[1-(phenylmethyl)-1,2,3,6-tetrahydro-4-pyridinyl]-1H-indole-7-carboxamide | 2.66 g, 51% | C1(=CC=CC=C1)C=1C=C2C(=CNC2=C(C1)C(=O)N)C=1CCN(CC1)CC1=CC=CC=C1 | C27H25N3O
